US06664111B2
Synthesis of 1-[4-(6-{[tert-butyl(dimethyl)silyl]oxy}hexyl)phenyl]-3-chloropropan-1-one
tert-Butyl(dimethyl)[(6-phenylhexyl)oxy]silane (21.00 g), 3-chlorophenylpropionyl chloride (9.14 g) and CS2 solvent (100 mL) were placed in a two neck flask equipped with a reflux condenser. The mixture was then cooled to −78° C. and AlCl3 (19.20 g) was added. The reaction mixture was stirred at −78° C. for 15 min., followed by: 0° C. for 20 min., 25° C. for 30 min., 40° C. for 40 min., 25° C. for 14 h. During the course of the temperature ramping, gas evolution (presumably HCl) was noted. The reaction was then quenched with several portions of 100 mL water/30 mL conc. HCl and the resulting mixture was transferred to a separatory funnel. The organic products were extracted into chloroform (4×200 mL). The chloroform fractions were combined and dried over MgSO4. The solvent was then removed by roto-evaporation to give a tan oil which solidified on standing overnight. 1H NMR shows the presence of resonances consistent with the desired product.

reactant | tert-Butyl(dimethyl)[(6-phenylhexyl)oxy]silane | 21.00 g | C(C)(C)(C)[Si](OCCCCCCC1=CC=CC=C1)(C)C | C18H32OSi
reactant | 3-chlorophenylpropionyl chloride | 9.14 g | ClC=1C=C(C=CC1)CCC(=O)Cl | C9H8Cl2O
reactant | AlCl3 | 19.20 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | CS2 | 100 mL | C(=S)=S | CS2
product | 1-[4-(6-{[tert-butyl(dimethyl)silyl]oxy}hexyl)phenyl]-3-chloropropan-1-one | [Si](C)(C)(C(C)(C)C)OCCCCCCC1=CC=C(C=C1)C(CCCl)=O | C21H35ClO2Si
